US09211340B2
83.8 mg (0.24 mmol) of N—(N-(2-(benzyloxy)ethyl)carbamimidoyl)-4-methylbenzenesulfonamide were dissolved under nitrogen in MeOH. A few mg of 10% Palladium over activated charcoal were added. 3 vacuo hydrogen flush were done before stirring vigorously the reaction under a H2 atmosphere. After 2 hours, no conversion was found by TLC (eluant AcOEt:pentane 9:1) and approximatively 5 times the amount of starting Palladium over activated charcoal was added. The rection was stirred overnight. The TLC showed the formation of a more polar product unless the reaction was far from being complete. 1 mL of acetic acid was added. One hour after the reaction was complete. The reaction was filtered over celite and the solvent evaporated to afford 62.8 mg (0.24 mmol) of N—(N-(2-hydroxyethyl)carbamimidoyl)-4-methylbenzenesulfonamide as a white solid (yield=100%).

reactant | N—(N-(2-(benzyloxy)ethyl)carbamimidoyl)-4-methylbenzenesulfonamide | 0.24 mmol, 83.8 mg | C(C1=CC=CC=C1)OCCNC(=N)NS(=O)(=O)C1=CC=C(C=C1)C | C17H21N3O3S
reactant | charcoal | C | CH4
reactant | AcOEt pentane | CCOC(=O)C.CCCCC
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | N—(N-(2-hydroxyethyl)carbamimidoyl)-4-methylbenzenesulfonamide | 0.24 mmol, 62.8 mg, yield=100% | OCCNC(=N)NS(=O)(=O)C1=CC=C(C=C1)C | C10H15N3O3S
